Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
"My therapist forced me to come here."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year-old Caucasian woman and ___ student with a history of depression and anxiety who 
was brought to ___ ED on ___ by Dr. ___ from 
___ because of recent "blackouts" (non-alcohol induced), suicidal 
ideation, and acute safety concerns. 
 
The psychiatry consultation team was consulted to perform a 
safety evaluation and treatment management. 

Patient reports that she's been dealing with depression, 
anxiety, and passive suicidal ideation since she was diagnosed 
with Crohn's disease around age ___. She is a ___ student, 
neuroscience major, who had to take a medical leave of absence 
from school in the ___ due to complications from her 
Crohn's disease (s/p small bowel resection w/ ostomy bag in 
___ and then ostomy reversal in ___. She returned to 
school in the ___. She's recently been under a great 
deal of academic stress and reports that she is barely passing 
her classes and failed one class last year. Although she is a ___ 
student, she lives in ___ with her fiancé ___ 
___. She sees a
psychiatrist and therapist (Dr. ___ (___), 
___, PhD) through the Counseling ___ (___) in ___. She's been recently feeling dissatisfied with 
her mental health care in ___ and presented to the ___ counseling 
center today to disclose some new symptoms and get connected to 
new treaters. 

She reports that for the past several months she's been having 
"emotional" episodes that start off like a "bad panic attack," 
during which she loses track of time, is not in control, has 
gaps in her memory afterwards, feels like she's "watching a 
movie." These were occurring monthly and now are occurring once 
every ___ weeks. Her last episode was last weekend, during which 
she was
driving, trying to get away, and had thoughts about driving off 
a bridge. Patient states she would never do it because she cares 
for her family, fiancé, and cat. During these episodes, she 
infrequently hits or scratches herself but has never engaged in 
cutting/burning. She endorses guilt over striking her fiancé 
(less than a week ago) during one of her "emotional" episodes 
i/s/o academic stress/frustration. She also reports that in the 
past she's had thoughts about jumping off a bridge but has never 
rehearsed this. However, last month (___), during one her 
"emotional" episodes, she walked outside to clear her head and 
found herself near a bridge. She can't recall if at that time 
she was actually concerned about hurting herself. Her fiancé 
found her walking home from this bridge.  

She is very upset that Dr. ___ placed her on a ___ and sent her to ___ ED. She states that when she spoke to 
Dr. ___ relayed the aforementioned symptoms and denied 
any current suicidal ideation/plan/intent. She thinks it was 
unnecessary for her to be sent here and that it was traumatizing 
for her to placed on a gurney and loaded onto an ambulance on
campus in front of other students. She has never been admitted 
to psychiatric unit and feels that this will not help her at 
all. She reports that her only suicide attempt was an overdose 
at age ___ with OTC sleeping pills for which she didn't go to a 
hospital/any providers for help. She currently denies any 
suicidal/homicidal thoughts and wants to go home and continue 
treatment in an outpatient setting. She feels supported by her 
fiancé and is worried about her finals, which are all scheduled 
for next ___. She has been taking her psychiatric 
medications as detailed below (lamotrigine, trazodone, 
clonazepam) without any issues. 

She endorses chronic low appetite related to her Crohn's disease 
(no weight changes). She has been having trouble concentrating 
and memorizing information at school She denies any changes in 
sleep or energy level. She denies anhedonia or feeling restless 
or sluggish. 

She denies any episodes of hypomania/mania (decreased need for 
sleep, increased energy, elevated or irritable mood, grandiose 
delusions, flight of idea, increase in goal-directed or 
impulsive behaviors). She denies any auditory/visual 
hallucinations, grandiose/paranoid delusions.   

COLLATERAL:

Dr. ___ at ___:

___ is a ___ yo p/t student at ___ w/ long hx of depression,
anxiety, habitual cannabis use and Crohn's Dis who presented
after a  1.5+ yr hiatus reporting "blackouts" (no alcohol) in
which she loses  time and does "unsafe things". This ___. during
a black out, she drove off with thoughts to get a gun at 
___
in ___ where she lives. During another recent blackout, she 
walked
in the middle of the night through unsafe neighborhoods to a
bridge. She has recently hit her bf/fiancée during these
episodes. She feels as though she watching herself from the
outside. She does not feel she can maintain her safety while 
they
occur. Have been occurring more frequently, ___.
Acknowledges daily cannabis use for her appetite. Alcohol-1
drink/wk. Past hx of OD attempt on anti-histamines at age ___ 
that
she never told anyone about. Has not been in therapy since ___. Unsatisfied with her current psychiatric tx in ___."  

___ (fiancé):
Patient's fiancé was in the ED. He confirmed patient's
description of her "emotional" episodes. He's noticed that they
occur in the setting of stress, usually academic. He thinks her
suicidal thoughts are very chronic in nature. He denies that
patient has verbalized plans/intent. Along with patient, he is
upset that patient was placed on a ___ and sent to the 
ED.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Prior diagnoses: depression, anxiety
 - Hospitalizations: none
 - Current treaters and treatment: Dr. ___ ___
___, PhD; both at ___ (___) 
 - Medication and ECT trials: previously on sertraline
(experienced sexual side effects, tapered off by ___,
experienced some withdrawal symptoms during taper); escitalopram
(was not effective); denies any ECT
 - Suicide attempts: overdose at age ___ w/ OTC sleeping pills,
didn't go to hospital/any providers for help
 - Self-injurious behavior: reports hitting or scratching 
herself
infrequently during "emotional" episodes; denies cutting/burning
 - Harm to others: recently hit her fiancé (<1 wk ago) during a
"emotional" episode 
 - Access to weapons: denies

PAST MEDICAL HISTORY:
Crohn's disease 
S/p small bowel resection w/ ostomy bag in ___ and then 
ostomy
reversal in ___
Multiple concussions at age ___ (horseback riding); was struck in
the face by horse (no LOC or TBI per patient)
No history of seizures
 
Social History:
SUBSTANCE ABUSE HISTORY:
 - Alcohol: 1 drink (glass of wine)/monthly
 - Marijuana: daily use since ___ yo to help with decreased
appetite and pain from Crohn's 
 - Cocaine/amphetamines/speed: denies
 - Opiates: denies
 - Benzodiazepines: denies
 - LSD/PCP: denies
 - ___: denies
 - Caffeine: denies

FORENSIC HISTORY:
 - Arrests: denies
 - Convictions and jail terms: denies
 - Current status (pending charges, probation, parole): denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
 - Parents: depression, anxiety
 - Maternal GM: OCD tendencies
 - Paternal aunt: per pt, possibly paranoid and bipolar 
 - Denies hx of suicide attempts, self-harm behaviors 
 
Physical Exam:
ADMISSION EXAM
EXAM: 
 VS:  
T 98.8 HR 77 BP 102/60 RR 17 O2 sat 100% RA 
 

Neurological:  
 Station and gait: normal stance, no truncal ataxia, steady  
gait
 Tone and strength: grossly intact, spontaneously moves all
extremities

Cranial nerves: CN II-XII grossly intact
 Abnormal movements: no tremor or abnormal posturing
 Frontal release: not assessed

 

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: can do MOYB
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration, ___ recall after 5 ___
grossly intact
  Fund of knowledge: consistent with education; intact to last 3
presidents; able to name ___ play by ___ (Hamlet)
  Calculations: $1.75 = "7 quarters"
  Abstraction: apple/orange = fruits; bicycle/train = modes of
transportation
  Visuospatial: not assessed

 Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
  
 Mental Status:
  Appearance: Thin Caucasian woman, appears stated age, nose
ring, thick yellow glasses, wearing hospital gown, hair in a bun
 Behavior: Cooperative, engaged, appropriate eye contact, some
psychomotor agitation 
  Mood and Affect: "Really anxious" / dysphoric, full range,
appropriate to situation, congruent with mood
  Thought process: linear, coherent, goal-oriented, no loose
associations
  Thought Content: denies SI/HI/AH/VH, no evidence of delusions
or paranoia
  Judgment and Insight: poor/poor

 
Pertinent Results:
___ 04:09PM BLOOD WBC-8.4 RBC-4.31 Hgb-12.7 Hct-39.1 MCV-91 
MCH-29.5 MCHC-32.5 RDW-12.2 RDWSD-40.9 Plt ___
___ 04:09PM BLOOD Neuts-61.7 ___ Monos-7.2 Eos-0.7* 
Baso-0.5 Im ___ AbsNeut-5.17 AbsLymp-2.47 AbsMono-0.60 
AbsEos-0.06 AbsBaso-0.04
___ 04:09PM BLOOD Glucose-96 UreaN-5* Creat-0.6 Na-141 
K-3.6 Cl-105 HCO3-23 AnGap-17
___ 04:09PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:09PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:09PM URINE UCG-NEGATIVE
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) DEPRESSION: Patient initially presented feeling depressed, 
overwhelmed, and with SI. However she consistently denied having 
any SI/HI after admission to ___ 4. She showed 
improvements in affect and mood, brightening and becoming more 
hopeful and forthcoming with the team about what would be 
helpful treatment for her. She was able to state that the 
hospitalization was helpful for her to take a step back and look 
at the trauma she has been through physically and emotionally 
with her Crohn's disease, and acknowledge how much outpatient 
support from treaters and her family is essential for her 
well-being. She felt good about the discharge plan to return to 
a former therapist through the ___'s and Colitis center who 
she felt was very helpful in the past, and also was in agreement 
to attending a ___ for further structure. We also discussed 
lightening her ___ over the summer, which her parents 
supported as well.

By time of discharge she was brighter, future-oriented, and able 
to state if she were to feel any worsening depression or return 
of SI, she would let her outpatient treaters know and/or come 
back to the ED. She also stated she felt safe leaving the 
hospital, particularly because her mother would be here for the 
next 2 weeks. 

3. SUBSTANCE USE DISORDERS:
#) MARIJUANA: Patient has had daily use since teenage years due 
to pain/poor appetite related to Crohn's. This was addressed on 
admission and patient was advised to avoid substance use in the 
context of her mood disorder.

4. MEDICAL
#) CROHN'S DISEASE: Remained stable throughout admission. 
Patient was advised to set up a PCP through ___ to coordinate 
her care with the ___'s and Colitis Center at ___.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit, and was an 
active participant in many groups. The patient’s primary team 
also met with her daily and various psychotherapeutic modalities 
were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Family meeting held with team and patient's parents, as well as 
her fiancé. Parents were warm and supportive, while also 
realistic about ___ medical and psychiatric conditions. 
They discussed the physical and mental trauma ___ has been 
through with her Crohn's disease since age ___. Aftercare 
planning was discussed including trying to get ___ linked 
back with her ___ therapist as part of the Crohn's and colitis 
center. We also discussed support groups for Crohn's, offloading 
her academic schedule, and interpersonal relationships with 
parents and
fiancé. Patient and family were in agreement for discharge on 
___, and mother is planning to stay in the ___ area with 
patient for next 2 weeks for closer monitoring and care, until 
they can attend a family ___ in ___ together.

#) INTERVENTIONS
- Medications: Continued home dose LTG (level pending) and 
trazodone
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: To f/u with prior psychiatrist at 
___ counseling, and to arrange appointment for therapist through 
Crohn's and colitis center at ___, as well as PCP. Also to f/u 
with PHP after discharge.
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
supportive and exploratory psychotherapy, coping strategies.
- Guardianships: N/A.

INFORMED CONSENT: N/A - home medications not changed.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
suicidality, thoughts of going to get a gun, history of hitting 
her fiancé during "blackouts." Their static factors noted at 
that time include history of suicide attempts, question of 
history of abuse, chronic mental illness, history of substance 
abuse, Caucasian race, age, marital status, the chronic pain, 
and chronic medical illness.   

The modifiable risk factors were also addressed at that time. We 
discussed and arranged continuity of psychiatric care as an 
outpatient and the patient's home/academic stressors with her 
and her family.

Finally, the patient is being discharged with many protective 
risk factors, including help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family and fiance, reality 
testing ability, good coping skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, and strong social supports. Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is fair-good.

MODIFIABLE RISK FACTORS
Suicidal ideation with plan, lack of outpatient treatment, 
hopelessness, emotional dysregulation with limited coping 
skills, active substance abuse (MJ), impulsivity, polarized 
thinking, and history of physical/emotional trauma from lifetime 
of Crohn's disease. 

PROTECTIVE RISK FACTORS
Help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family and fiance, reality testing ability, 
good coping skills, positive therapeutic relationship with 
outpatient providers, lack of suicidal ideation, and strong 
social supports. Thus, I feel the patient does not meet section 
12a criteria for risk of harm to self/others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 200 mg PO QHS 
2. TraZODone 100 mg PO QHS:PRN insomnia 
3. ClonazePAM 1 mg PO BID:PRN anxiety 

 
Discharge Medications:
1. LamoTRIgine 200 mg PO QHS 
RX *lamotrigine [Lamictal] 200 mg 1 tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0
2. TraZODone 100 mg PO QHS:PRN insomnia 
RX *trazodone 100 mg 1 tablet(s) by mouth at bedtime PRN Disp 
#*30 Tablet Refills:*0
3. ClonazePAM 1 mg PO BID:PRN anxiety 
RX *clonazepam 1 mg 1 tablet(s) by mouth twice a day PRN Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depression, suicidal 
thoughts, and dissociative episodes. You are now ready for 
discharge and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___